US07547680B2
4-Fluoro-3-methoxymethoxybenzaldehyde
4-Fluoro-3-hydroxybenzaldehyde (11.9 g) and N,N-diisopropylethylamine (44 mL) were dissolved in dichloromethane (100 mL). To the mixture was added chloromethylmethylether (13 mL), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added dropwise 1 mol/L hydrochloric acid (250 mL), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (14.5 g).

reactant | 4-Fluoro-3-hydroxybenzaldehyde | 11.9 g | FC1=C(C=C(C=O)C=C1)O | C7H5FO2
reactant | N,N-diisopropylethylamine | 44 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethylmethylether | 13 mL | ClCOC | C2H5ClO
reactant | hydrochloric acid | 1 mol/L, 250 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Fluoro-3-methoxymethoxybenzaldehyde | 14.5 g | FC1=C(C=C(C=O)C=C1)OCOC | C9H9FO3
